### PR TITLE
[Merged by Bors] - feat(SetTheory/ZFC): ZFSet is the type of small sets of ZFSets

### PR DESCRIPTION
**Pull request by timotree3**
---

Would an equivalence like this be worth including in mathlib? I was going to ask in Zulip but I figured I might as well submit a PR. I'm sure the naming/docs/proof are not up to standards. This is my first time adding content to mathlib.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/ZFC/Basic.lean [hunk 1]
```diff
@@ -1819,4 +1819,34 @@ theorem choice_mem (y : ZFSet.{u}) (yx : y ∈ x) : (choice x ′ y : Class.{u})
...
+  {
+    toFun := toFun
+    invFun := invFun
+    left_inv := left_inv
+    right_inv := by
+      apply Function.rightInverse_of_injective_of_leftInverse
+      · intro x y
+        simp
+      apply left_inv
+  }
```
Comment (YaelDillies) [inline Mathlib/SetTheory/ZFC/Basic.lean:1850]: Here's a slight golf:
```suggestion
private lemma toSet_equiv_aux {s : Set ZFSet.{u}} (hs : Small.{u} s) :
  (mk $ PSet.mk (Shrink s) fun x ↦ ((equivShrink s).symm x).1.out).toSet = s := by
    ext x
    rw [mem_toSet, ←mk_out x, mk_mem_iff, mk_out]
    refine' ⟨_, λ xs ↦ ⟨equivShrink s (Subtype.mk x xs), _⟩⟩
    · rintro ⟨b, h2⟩
      rw [←ZFSet.eq, ZFSet.mk_out] at h2
      simp [h2]
    · simp [PSet.Equiv.refl]

/-- `ZFSet.toSet` as an equivalence. -/
@[simps apply_coe]
noncomputable def toSet_equiv : ZFSet.{u} ≃ {s : Set ZFSet.{u} // Small.{u, u+1} s} where
  toFun x := ⟨x.toSet, x.small_toSet⟩
  invFun := λ ⟨s, h⟩ ↦ mk $ PSet.mk (Shrink s) fun x ↦ ((equivShrink.{u, u+1} s).symm x).1.out
  left_inv := Function.rightInverse_of_injective_of_leftInverse (by intros x y; simp)
    λ s ↦ Subtype.coe_injective $ toSet_equiv_aux s.2
  right_inv s := Subtype.coe_injective $ toSet_equiv_aux s.2
```
We tend tto prefer strengthening existing functions to equivs rather than introducing the inverse function.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
